US09427483B2
(1-Methyl-2,6,7-trioxabicyclo[2.2.2]octan-4-yl)methanol [C7H12O4], 6
Pentaerythritol (60 g, 440.7 mmol) was added to a stirring solution of dioctyl phthalate (100 mL) containing trace p-toluene sulfonic acid monohydrate, and heated to 120° C. After triethyl orthoacetate (71.685 g, 81 mL, 441.87 mmol) was added in one portion the reaction was equipped with a distillation apparatus and stirred for 22 h. Upon return, 64 mL of ethanol had distilled (83% of the theoretical amount). TEA (40 drops) was added, stirred for 10 minutes, heated to 160° C. The TEA and remaining ethanol were removed under vacuum. After changing the distillation glassware, the final product, a white solid, was isolated by vacuum distillation at 185° C. and recrystallized using benzene. Yield: 83%, 58.64 g. 1H NMR (CDCl3; 500 MHz) δ ppm: 1.453 (s, 3H, CH3), 1.58 (t, 1H, OH), 3.454 (d, 2H, CCH2OH), and 4.015 (s, 6H, OCH2C). 13C NMR (CDCl3; 125.8 MHz) δ ppm: 23.53 (CH3), 35.71 (CH2CCH2), 61.50 (CCH2OH), 69.41 (OCH2C), and 108.67 (OCCH3). ESI-MS (m/z): 161.06 (161.07 calc'd for C7H12O4 [M+H]+). Elemental analysis calc'd (found) for C7H12O4: C, 52.49 (51.58); H, 7.55 (7.67).

reactant | Pentaerythritol | 440.7 mmol, 60 g | OCC(CO)(CO)CO | C5H12O4
reactant | p-toluene sulfonic acid monohydrate | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | triethyl orthoacetate | 441.87 mmol, 81 mL, 71.685 g | C(C)(OCC)(OCC)OCC | C8H18O3
solvent | dioctyl phthalate | 100 mL | C(C=1C(C(=O)OCCCCCCCC)=CC=CC1)(=O)OCCCCCCCC | C24H38O4
product | (1-Methyl-2,6,7-trioxabicyclo[2.2.2]octan-4-yl)methanol | Yield: 83% | CC12OCC(CO1)(CO2)CO | C7H12O4
